US07160906B2
2-[3-isopropyloxy-5-{(2-fluorobenzylamino)methyl}benzoylamino]-5-pyridine Carboxylic Acid (Route 11)
2-(3-isopropyloxy-5-carboxy-benzoyl) amino-5-pyridine carboxylic acid (0.10 g, 0.30 mM), 4A molecular sieves (0.3 g) and 2-fluorobenzylamine were stirred in MeOH at ambient temperature for 2 hrs then sodium cyanoborohydride (0.023 g, 0.36 mM) added. After a further 2 hrs the reaction mixture was filtered, residue washed with MeOH and the filtrate concentrated in vacuo. Water was added, then acidified with 2M HCl to precipitate a colourless solid which was filtered, washed with water and dried under high-vacuum to give the title compound as a light brown solid (00.10 g, 76%); 1H NMR δ (d6-DMSO): 1H NMR δ (d6-DMSO): 1.29 (d, 6H), 4.13 (d, 2H), 4.74 (m, 1H), 7.20–7.30 (m, 3H), 7.43 (m, 1H), 7.58 (m, 2H), 7.68 (s, 1H), 8.28 (s, 2H), 8.87 (s, 1H), 11.10 (bs, 1H).

reactant | 2-(3-isopropyloxy-5-carboxy-benzoyl) amino-5-pyridine carboxylic acid | 0.30 mM, 0.10 g | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)C(=O)O | C17H16N2O6
reactant | 2-fluorobenzylamine | FC1=C(CN)C=CC=C1 | C7H8FN
reactant | sodium cyanoborohydride | 0.36 mM, 0.023 g | C(#N)[BH3-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-[3-isopropyloxy-5-{(2-fluorobenzylamino)methyl}benzoylamino]-5-pyridine Carboxylic Acid | 76% | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)CNCC1=C(C=CC=C1)F | C24H24FN3O4
